US05360811
2-Amino-3-[4-(1 -dodecynyl)-2-thienyl]-1- propanol
To a solution of N-[1-[4-(1-dodecynyl)-2-thienyl]-3-hydroxy-2-propyl]acetamide (4.6 g) in 95% ethanol (30 ml) was added degassed 2N sodium hydroxide solution. The reaction mixture was stirred at 65° C. overnight. The solution was diluted with saturated ammonium chloride solution and extracted with ethyl acetate. The organic extracts were evaporated, and the residue was flashed chromatographed on silica gel (9:1 dichloromethane:methanol). The appropriate fractions were collected and evaporated. The residue was taken up in ether, an ethereal hydrogen chloride was added, and the mixture was stirred at room temperature for 30 mins. The precipitate was collected and air-dried to give 2.05 g (45.4%) of product, mp 85°-135° C.

reactant | N-[1-[4-(1-dodecynyl)-2-thienyl]-3-hydroxy-2-propyl]acetamide | 4.6 g | C(#CCCCCCCCCCC)C=1C=C(SC1)CC(CO)NC(C)=O | C21H33NO2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Amino-3-[4-(1 -dodecynyl)-2-thienyl]-1- propanol | 2.05 g, 45.4% | NC(CO)CC=1SC=C(C1)C#CCCCCCCCCCC | C19H31NOS
